US07662830B2
3. 4-(4-Fluoro-phenyl)-6-(2-(R)-methyl-piperazin-1-yl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine
Stir 4-[6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester (4.5 g, 9.88 mmol) in 4M HCl-dioxane (50 mL) for 40 min. Concentrate and partition between EtOAc and sat. NaHCO3. Dry the organic layer (Na2SO4) and concentrate under reduced pressure to yield the title compond.

reactant | 4-[6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester | 9.88 mmol, 4.5 g | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](CCC1)C)C | C25H34FN5O2
solvent | HCl dioxane | 4M, 50 mL | Cl.O1CCOCC1
product | 4-(4-Fluoro-phenyl)-6-(2-(R)-methyl-piperazin-1-yl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine | FC1=CC=C(C=C1)C1=NC(=NC(=C1)N1[C@@H](CNCC1)C)N1[C@@H](CCC1)C | C20H26FN5
